US07834009B2
A solution of 1-[(4-fluoro-benzylamino)-methyl]-cyclopropanecarboxylic acid ethyl ester (72 mg, 0.29 mmol) and (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (105 mg, 0.32 mmol) in anhydrous N,N-dimethylformamide (4 mL) was treated sequentially with N-methylmorpholine (70 μL, 0.64 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (61 mg, 0.32 mmol). The reaction mixture was stirred at 25° C. for 1 h, diluted with a 1.0 M aqueous hydrochloric acid solution (20 mL), and extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine (20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in ethanol (5 mL), treated with a 21 wt % solution of sodium ethoxide in ethanol (0.5 mL, 1.37 mmol). The reaction was stirred and heated at 60° C. for 1.5 h, allowed to cool to 25° C., and quenched with a 0.5 M aqueous hydrochloric acid solution (10 mL). The resulting mixture was extracted with ethyl acetate (3×30 mL) and the combined organic layers were washed with brine (20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by prep-HPLC {Column Luna 5μ C18 (2) 100 Å AXIA 150×21.2 mm, 5 micron, 30-100% in 7 min @ 30 mL/min flow rate, 0.05% trifluoroacetic acid in acetonitrile/0.05% trifluoroacetic acid in water] to give N-{3-[5-(4-fluoro-benzyl)-8-hydroxy-6-oxo-5-aza-spiro[2.5]oct-7-en-7-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (58 mg, 39%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 0.97 (br s, 2H), 1.34 (br s, 2H), 3.06 (s, 3H), 3.41 (s, 2H), 4.65 (s, 2H), 7.17 (t, J=8.8 Hz, 2H), 7.36 (dd, J1=8.8 Hz, J2=5.4 Hz, 2H), 7.51 (dd, J1=8.4 Hz, J2=2.4 Hz, 1H), 7.57-7.60 (m, 2H), 10.16 (s, 1H), 13.86 (br s, 1H). LC-MS (ESI) calculated for C22H21FN4O6S2: 520.1, found 521.3 [M+H+].

reactant | 1-[(4-fluoro-benzylamino)-methyl]-cyclopropanecarboxylic acid ethyl ester | 0.29 mmol, 72 mg | C(C)OC(=O)C1(CC1)CNCC1=CC=C(C=C1)F | C14H18FNO2
reactant | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 0.32 mmol, 105 mg | CS(=O)(=O)NC1=CC2=C(NC(=NS2(=O)=O)CC(=O)O)C=C1 | C10H11N3O6S2
reactant | N-methylmorpholine | 0.64 mmol, 70 μL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.32 mmol, 61 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 1.37 mmol, 0.5 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1.0 M, 20 mL | Cl | ClH
product | N-{3-[5-(4-fluoro-benzyl)-8-hydroxy-6-oxo-5-aza-spiro[2.5]oct-7-en-7-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 58 mg, 39% | FC1=CC=C(CN2CC3(CC3)C(=C(C2=O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)O)C=C1 | C22H21FN4O6S2
